US07166623B2
DIPEA (130 μl, 1.0 mmol) was added to a solution of 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid (100 mg, 0.34 mmol), 3-diethylaminopropylamine (49 mg, 0.37 mmol), HBTU (155 mg, 0.41 mmol) and HOBT (46 mg, 0.34 mmol) in DMF (1.0 ml). The reaction was stirred at room temperature for 66 h. The DMF was evaporated under vacuum and the residue partitioned between DCM (5 ml) and water (5 ml) The organic phase was absorbed onto a silica flash column and eluted with DCM/ethanol/ammonia (100:8:1). The product fractions were concentrated under vacuum to give N-[3-(diethylamino)propyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide (88 mg, 64%).

reactant | DIPEA | 1.0 mmol, 130 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | 0.34 mmol, 100 mg | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 3-diethylaminopropylamine | 0.37 mmol, 49 mg | C(C)N(CCCN)CC | C7H18N2
reactant | HBTU | 0.41 mmol, 155 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 0.34 mmol, 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | N-[3-(diethylamino)propyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | 88 mg, 64% | C(C)N(CCCNC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C)CC | C24H30N4O2
